US05332741
8-{{3-[(5-METHOXY-DIHYDRO-[2H]-BENZO[b]PYRAN-3-YL)AMINO]PROPYL}OXY}THIOCHROMAN
Under argon, 1.6 g (5.58 mmol) of 8-[(3-bromopropyl) oxy]thiochroman, 1 g (5.58 mmol) of 3-amino-5-methoxy-dihydro-[2H]-benzo[b]pyran and 1.69 g (16.74 mmol) of triethylamine are dissolved in 20 cm3 of dimethylformamide. The mixture is kept at room temperature for 24 hours. The solvent is evaporated off. The residue is taken up in H2O and extracted with methylene chloride. The product is dried over MgSO4. After evaporation, the product is purified over a flash silica column. Eluant: methanol/CH2Cl2 5:95. The title compound is obtained (yellow oil).

reactant | 8-[(3-bromopropyl) oxy]thiochroman | 5.58 mmol, 1.6 g | BrCCCOC=1C=CC=C2CCCSC12 | C12H15BrOS
reactant | 3-amino-5-methoxy-dihydro-[2H]-benzo[b]pyran | 5.58 mmol, 1 g | NC1CC2=C(OC1)C=CC=C2OC | C10H13NO2
reactant | triethylamine | 16.74 mmol, 1.69 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
product | 8-{{3-[(5-METHOXY-DIHYDRO-[2H]-BENZO[b]PYRAN-3-YL)AMINO]PROPYL}OXY}THIOCHROMAN | yield: 58% | COC1=CC=CC=2OCC(CC21)NCCCOC=2C=CC=C1CCCSC21 | C22H27NO3S
